US06201087B1
8.5 g (0.028 mol) of 4-[6-(2-methyl-acryloyloxy)-hexyloxy]-benzoic acid were treated with 10 ml of thionyl chloride and 3 drops of DMF and boiled under reflux for 4 hours. The excess thionyl chloride was removed completely, firstly in a water-jet vacuum and subsequently in a high vacuum. The acid chloride remaining was taken up in 20 ml of THF and slowly added dropwise at 0° C. to a suspension of 4.09 g (0.025 mol) of 7-hydroxy-coumarin and 4.25 ml of triethylamine in 30 ml of THF. The batch was stirred at room temperature overnight, filtered and the filtrate was evaporated to dryness. The residue was purified by column chromatography and subsequently by recrystallization from ethanol. 6.71 g of 2-oxo-2H-1-benzopyran-7-yl 4-[6-(2-methyl-acryloyloxy)-hexyloxy]-benzoate were isolated as a white powder; m.p. 98-104.5° C.

reactant | 4-[6-(2-methyl-acryloyloxy)-hexyloxy]-benzoic acid | 0.028 mol, 8.5 g | CC(C(=O)OCCCCCCOC1=CC=C(C(=O)O)C=C1)=C | C17H22O5
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 7-hydroxy-coumarin | 0.025 mol, 4.09 g | OC1=CC=C2C=CC(OC2=C1)=O | C9H6O3
reactant | triethylamine | 4.25 ml | C(C)N(CC)CC | C6H15N
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-oxo-2H-1-benzopyran-7-yl 4-[6-(2-methyl-acryloyloxy)-hexyloxy]-benzoate | 6.71 g | CC(C(=O)OCCCCCCOC1=CC=C(C(=O)OC2=CC3=C(C=CC(O3)=O)C=C2)C=C1)=C | C26H26O7
